US09303033B2
5-chloro-N-cyclopropylpyrazolo[1,5-a]pyrimidin-7-amine (208 mg, 1 mmol) was suspended in EtOH (1 mL). 4-aminobenzonitrile (236 mg, 2 mmol) and then conc. HCl (125 μL, 1.5 mmol) were added and the reaction was placed in a 95° C. oil bath. After 24 h, additional conc. HCl was added (62 μL). After an additional 24 h, the reaction was cooled to 23° C. and the filter cake was washed with EtOH (2 mL) to afford 4-(7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-5-ylamino)benzonitrile hydrochloride (205 mg, 63%) as a light brown solid. LCMS (ES): >90% pure, m/z 291 [M+1]+.

reactant | 5-chloro-N-cyclopropylpyrazolo[1,5-a]pyrimidin-7-amine | 1 mmol, 208 mg | ClC1=NC=2N(C(=C1)NC1CC1)N=CC2 | C9H9ClN4
reactant | 4-aminobenzonitrile | 2 mmol, 236 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | HCl | 1.5 mmol, 125 μL | Cl | ClH
solvent | EtOH | 1 mL | CCO | C2H6O
product | 4-(7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-5-ylamino)benzonitrile hydrochloride | 205 mg, 63% | Cl.C1(CC1)NC1=CC(=NC=2N1N=CC2)NC2=CC=C(C#N)C=C2 | InChI=1S/C16H14N6.ClH/c17-10-11-1-3-12(4-2-11)19-14-9-16(20-13-5-6-13)22-15(21-14)7-8-18-22;/h1-4,7-9,13,20H,5-6H2,(H,19,21);1H
